US05866513
d. Preparation of 2,3,4-Trimethylbenzaldehyde (aldehyde for Example 48)
To a stirred solution of SnCl4 (39 g, 0.15 mol) in 50 mL of dichloromethane was added dropwise at -5° C. a solution of 15 g (0.13 mol) of dichloromethylmethylether. This solution was stirred at -5° C. for one hour before adding dropwise over 10 min a solution of 12 g (0.1 mol) of 1,2,3-trimethylbenzene. The mixture was stirred at 0° C. for 15 min before warming to room temperature where it was stirred an additional 1.5 hrs. After quenching onto 100 g of ice the organic layer was separated, washed with water, saturated aqueous sodium bicarbonate and water before drying over Na2SO4, filtering and evaporating to dryness in vacuo. The product was purified by distillation in vacuo. B.p. 120°-122° C. (11 mm). Lit. b.p. 121.5 (11 mm) Yield: 9.2 g (70%).

reactant | SnCl4 | 0.15 mol, 39 g | Cl[Sn](Cl)(Cl)Cl
reactant | dichloromethylmethylether | 0.13 mol, 15 g | ClC(Cl)OC | C2H4Cl2O
reactant | 1,2,3-trimethylbenzene | 0.1 mol, 12 g | CC1=C(C(=CC=C1)C)C | C9H12
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 2,3,4-Trimethylbenzaldehyde | CC1=C(C=O)C=CC(=C1C)C | C10H12O
